Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y ear old male with history of diastolic CHF (EF > 55%), 
moderate AS with plan for AVR/CABG in ___, atrial 
fibrillation on xarelto, and hypertension presenting with 
dyspnea and weight gain over a 3 week period. He notes 
exertional dyspnea when walking 50 ft with mild cough, bilateral 
lower extremity swelling, and orthopnea. Torsemide recently 
increased from 40 to 80 mg by Dr. ___ on ___ and despite 
this symptoms have been worsening.

Catheterization on ___ showed an aortic valve gradient of 50 
mm with a calculated valve area of 0.7 cm2. The wedge pressure 
was elevated to 31 mm and pulmonary artery pressure to 63/26. 
Right atrial pressure was 16.  Cardiac index was low at 1.8 
L/min/m2. On presentation for cardiac cathterization patient was 
found to newly develop atrial fibrillation. Patient planned for 
AVR/CABG with Dr. ___ in ___. 

In the ED initial vitals were: 
Temp 97.5, HR 90, BP 147/64, RR 22, 95% RA

Exam in the ED was significant for bilateral lower extremity 
edema. 

EKG: atrial fibrillation, anterior Q waves (unchanged from 
prior)

Labs/studies notable for: WBC 11.47, Hg 12.1, platelets 201, Na 
133, K 3.6, BUN 26, Cr 1.8, INR 1.6, and trop 0.05. BNP 2454

CXR showed mild interstitial pulmonary edema and trace bilateral 
pleural effusion.    
  
Patient was given: 243 mg aspirin. 

Vitals on transfer: HR 74, BP 117/70, RR 14, 95% RA

On the floor, patient notes weight gain over a period of several 
weeks with 25 lb weight gain since hospitalization in ___. He 
has noted shortness of breath ambulation with walking about 50 
feet. IN addition to this he has noted increased leg swelling 
and edema to the knees as well orthopnea requiring him to sleep 
sitting up in a recliner. Additionally he notes a cough that is 
worse when lying flat without fever or chills. He has adhered to 
low sodium diet around 3 grams though is unsure about exact 
fluid restriction. He has remained compliant with torsemide 
daily though notes minimal urine output when taking it.   

REVIEW OF SYSTEMS:
Positive per HPI.
Cardiac review of systems is notable for absence of chest pain, 
palpitations, syncope, or presyncope.

On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.
 
Past Medical History:
- obesity
- HTN 
- Hyperlipidemia
- ADD 
- right ankle fusion approximately ___ years ago
- obstructive sleep apnea
- glucose intolerance 
- basal cell carcinomas 
- appendectomy 
- tonsillectomy
- heart murmur (unknown etiology) but TTE in ___ showed nl valves
- two episodes of possible head injury one at age ___ associated
with falling off his bike and hitting his head w/ LOC. He had
multiple fractures and injuries from this, including a R arm
fracture w/ contracture and the R ankle fusion listed above. The
second episode occurred later when he fell off a wall and hit 
his
head with LOC. He sustained a broken arm 

 
Social History:
___
Family History:
Family History:
 no hx of neurological do's including sz or stroke
-mother: lung CA
-father: MI heart attack at ___ still alive
-Sister: HLD, obesity, breast cancer
-Brother: "had to see a psychiatrist" to cope with "being gay"
-great grandaunt with stroke and heart attack also at ___
 
Physical Exam:
Physical Exam on Admission:
===========================
VS: T 97.6  BP 122/79  HR 72  RR 20 100% RA O2 SAT wt 148.4 kg 
(137.7kg in ___
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3. Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP to the mandible sitting at 90 degrees upright. 

CARDIAC: Irregular rate and rhythm. Normal S1, S2. II/VI murmur 
heard best at the RUSB and precordium without radiation to the 
carotids. No rubs or gallops. No thrills or lifts.
LUNGS: No chest wall deformities or tenderness. Respiration 
labored when attempts to lie flat. No crackles though diminished 
at bilateral bases. 
ABDOMEN: Obese, Soft, non-tender, non-distended. No 
hepatomegaly. No splenomegaly.
EXTREMITIES: Warm, well perfused. 3+ edema to the knees 
bilaterally. No sacral edema
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

Physical Exam on Discharge:
============================
VS: T afebrile  BP 100s-120s/79  HR ___  RR ___  100% RA 
O2 SAT wt 128.4 kg (137.7kg in ___
GENERAL: NAD. Oriented x3. Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP normal. 
CARDIAC: Irregular rhythm. Normal S1, S2. II/VI murmur heard 
best at the RUSB. No rubs or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration 
labored when attempts to lie flat. No crackles though diminished 
at bilateral bases. 
ABDOMEN: Obese, Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No edema in legs bilaterally. 
No sacral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
Gluteal Cleft: erythematous, scaly, non-indurated rash. no 
fluctuance noted. though evidence of skin breakdown. 
 
Pertinent Results:
Important Labs on Admission:
============================
___ 02:15PM BLOOD WBC-11.4* RBC-3.80* Hgb-12.1* Hct-36.5* 
MCV-96 MCH-31.8 MCHC-33.2 RDW-15.9* RDWSD-55.5* Plt ___
___ 03:17PM BLOOD ___ PTT-35.0 ___
___ 08:35PM BLOOD Glucose-173* UreaN-26* Creat-1.8* Na-135 
K-3.5 Cl-95* HCO3-27 AnGap-17
___ 02:15PM BLOOD CK-MB-7 cTropnT-0.05* proBNP-2454*
___ 02:15PM BLOOD Calcium-9.9 Phos-2.8 Mg-2.0

Important Labs on Discharge:
============================
___ 06:55AM BLOOD WBC-15.3* RBC-3.88* Hgb-12.0* Hct-36.2* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-13.9 RDWSD-47.0* Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD ___ PTT-35.2 ___
___ 06:55AM BLOOD Glucose-108* UreaN-49* Creat-1.2 Na-134 
K-3.7 Cl-92* HCO3-28 AnGap-18
___ 06:15AM BLOOD ALT-21 AST-35 AlkPhos-207* TotBili-0.9
___ 06:55AM BLOOD Calcium-9.6 Phos-3.6 Mg-2.1

Important Results:
==================
___ 05:10PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-1 pH-6.5 Leuks-NEG, 
URINE CULTURE (Final ___:    <10,000 organisms/ml. 

___ CXR:
In comparison with the study of ___, the costophrenic angles 
are not well seen posteriorly, suggesting small pleural 
effusions. Continued enlargement of the cardiac silhouette 
without definite vascular congestion or acute focal pneumonia. 
On the lateral view, the hemidiaphragms are now sharply seen and 
no evidence of acute pneumonia is appreciated.

___ CXR: 
FINDINGS:  
Lungs are well expanded.  Mediastinal contours, hila, and 
moderate 
cardiomegaly are unchanged from ___.  Subtle opacity 
silhouetting the 
right hemidiaphragm seen better on lateral view is more apparent 
than on ___.  No pulmonary edema, pleural effusion, or 
pneumothorax. 
IMPRESSION:   
Subtle right lower lobe opacity could represent pneumonia. 

___ Left Foot film:
In comparison with the study of ___, there is little overall 
change.  The phalanges of the fifth digit show no evidence of 
cortical erosion or internal destruction to spot 
radiographically suggest osteomyelitis.  However, plain 
radiographs are poor for this purpose, it and if there is 
serious clinical concern for osteomyelitis, MRI could be 
obtained.
Again there is an old healed fracture of the midshaft of the 
fifth metatarsal. There is extensive soft tissue prominence 
about the first MTP joint with what appeared to be periarticular 
erosions, raising the possibility of gout.  In the appropriate 
setting, it would be difficult to exclude the possibility of 
infection. Tissue swelling dorsally.  Large inferior and 
posterior calcaneal spurs are again seen.

___ Arterial Extremities:
Findings Doppler evaluation was performed of both lower 
extremity arterial
systems.  All waveforms are triphasic bilaterally from the 
femoral to the
dorsalis pedis artery.  The right ankle-brachial index is 1.27.  
The left is 1.11.  Pulse volume recordings are normal.
Impression: normal arterial Doppler study of both lower 
extremities at rest

___ ECHO:
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are moderately thickened. There is severe 
aortic valve stenosis (valve area <1.0cm2; <0.6 cm2/m2). Mild 
(1+) aortic regurgitation is seen. The mitral valve appears 
structurally normal with mild [1+] mitral regurgitation. There 
is mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion.

IMPRESSION: Very suboptimal image quality. Severe aortic valve 
stenosis. Mild aortic regurgitation. Mild symmetric left 
ventricular hypertrophy with preserved regional and global 
biventricular systolic function.
Compared with the prior study (images reviewed) of ___, 
the calculated aortic valve area is now lower - due to the lower 
LVOT VTI/peak velocity on the current study.
If clinically indicated, a cardiac MRI may be better able to 
assess the severity of aortic stenosis and biventricular 
systolic function.  

___. difficile DNA amplification assay (Final 
___ for toxigenic C. difficile.

Blood Culture, Routine (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
___ year old male with history of diastolic CHF (EF > 55%), CAD 
with moderate AS with plan for AVR/CABG in ___, atrial 
fibrillation on xarelto, and hypertension presenting with 
dyspnea, weight gain, and elevated BNP with diastolic CHF 
exacerbation. 

# Diastolic CHF exacerbation:
Patient presented with weight gain (up 25lbs from dry weight), 
dyspnea, orthopnea, elevated BNP of 2454 (previously 1224) found 
to have pulmonary edema and bilateral pleural effusions. The 
likely etiology was thought to be new-onset Atrial fibrillation 
with need for AVR. Was treated with Lasix IV, lasix drip, and 
metolazone before being transitioned to po Lasix 100mg BID 
(discharge dosing). Discharge Cr was 1.2 and weight was 128.4 
kg. On exam, he appeared euvolemic, with normal JVP, clear 
lungs, and no edema.

# Moderate AS/CAD with plan for AVR/CABG:
Catheterization on ___ showed an aortic valve gradient of 50 
mm with a calculated valve area of 0.7 cm2. Patient with 
elevated troponin in setting of CKD as well, possibly demand due 
to CHF exacerbation. Since admission, he has remained chest pain 
free. Given his condition, Cardiac surgery team was consulted 
for an expedited valve repair. Vascular surgery was also 
consulted to evaluate any possible necrosis of his toe, which 
did not reveal any osteomyelitis. Xarelto was stopped for 
surgery. He was scheduled for surgery on ___. He was 
continued on daily aspirin 81mg, and his simvastatin 20mg was 
changed to atorvastatin 40 mg. Nitro was avoided, given that he 
was preload dependent.

# Atrial fibrillation CHADS2VASC score 2:
Mr. ___ initially presented in atrial fibrillation. He was 
not on rate-controlling agent at admission, but was on Xarelto. 
He was initially started on metoprolol 12.5mg, which was 
uptitrated to 25mg. He occasionally had asymptomatic episodes of 
bradycardia to rates of 30's which lasted for a few minutes; 
however, we did not discontinue his metoprolol because it was 
felt that the reason for his reduced heart rates was likely 
sleep apnea, for which he refused to use CPAP. Xarelto was 
briefly stopped ___ and he was started on heparin ___ for a 
planned CABG/AVR. However, the surgical date was postponed to 
___ therefore, he was restarted on Xarelto, with instructions 
to take last dose on ___ for a five-day washout prior to 
surgery.

#C. diff colitis and gluteal cleft fungal rash:
He initially developed a leukocytosis with a neutrophilic 
predominance, with minimal and non-productive cough, but was 
afebrile. U/A was unremarkable, Urine culture grew Klebsiella, 
but this was thought unlikely to be a UTI as he had no symptoms. 
An initial chest xray showed a possible right lower lobe 
consolidation and he received empiric treatment for Healthcare 
Associated Pneumonia with Vancmyycin/Cefepime. However, C. 
difficile antigen test was positive (he has never had diarrhea, 
however), so IV antibiotics were stopped and  he was started on 
14 day course of oral vancomycin (last day ___. During this 
admission, he was found to have a fungal infection in his 
gluteal cleft with skin breakdown. Wound care nursing was 
consulted and he was treated with miconazole cream for 2 weeks, 
twice daily (last day ___.

#Cardiorenal Syndrome:
He initially presented to the hospital with a Cr of 1.6. It was 
initially thought to be an acute on chronic kidney injury; 
however, given adequate diuresis with lasix IV, drip, 
metolazone, and lasix 100 PO BID, his Cr at discharge was 1.2.

#Anxiety/Mania:
Aripiprazole was increased to 4mg in discussion with outpatient 
psychiatrist.

Transitional Issues:
====================
# Cardiac medications: Aspirin 81mg, Atorvastatin 80mg, Lasix 
100 mg BID, metoprolol XL 50mg, Rivaroxaban (Xarelto) 20 mg.
# Weight at discharge 128.4 kg.
# Please consider repeat BMP and CBC at follow-up appointment to 
evaluate renal function and ensure resolution of leukocytosis.
# Please check patient's fungal rash to ensure improvement. He 
will be on miconazole 2% cream for 14-days (last dose ___
# Patient scheduled for CABG/AVR/MAZE procedure on ___. Please 
remind him that last dose of Xarelto should be on ___ prior to 
surgery.
# Patient continuing treatment for C. difficile colitis, 14 day 
course (last dose ___. He will need a repeat C.diff test once 
he is done with his treatment course to be done as an outpatient 
and faxed Attn: ___ Cardiac Surgery at ___.

Full Code
Healthcare Proxy: Wife, ___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 80 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
3. ARIPiprazole 2 mg PO DAILY 
4. HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO DAILY PRN  
Pain - Mild 
5. Simvastatin 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Rivaroxaban 20 mg PO DAILY 
8. Amphetamine-Dextroamphetamine 40 mg PO QAM 
9. tadalafil 5 mg oral PRN 
10. Potassium Chloride 20 mEq PO DAILY 
11. amLODIPine 5 mg PO DAILY 
12. testosterone 1%  (50 mg/5 gram) patch transdermal QOD 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
2.  Furosemide 100 mg PO BID 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
4.  Miconazole 2% Cream 1 Appl TP BID 
5.  Vancomycin Oral Liquid ___ mg PO Q6H 
6.  ARIPiprazole 4 mg PO DAILY  
7.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
8.  Amphetamine-Dextroamphetamine 40 mg PO QAM  
9.  Aspirin 81 mg PO DAILY  
10.  HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO DAILY PRN  
Pain - Mild  
11.  Potassium Chloride 20 mEq PO DAILY  
12.  Rivaroxaban 20 mg PO DAILY  
13.  testosterone 1%  (50 mg/5 gram) patch transdermal QOD  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on Chronic Diastolic Heart Failure
C. difficile colitis infection
Aortic Stenosis
Coronary Artery Disease
Acute Kidney Disease
Atrial Fibrillation
Fungal Infection of the groin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you had weight gain and shortness of breath. You 
received IV medications to remove fluid from your body. 

It is very important to take all of your heart healthy 
medications. In particular, you are taking Lasix 100 mg (one 80 
mg and one 20 mg tablet) twice a day, which helps remove excess 
fluid from your body. Please weigh yourself every day in the 
morning after you go to the bathroom and before you get dressed. 
If your weight goes up by more than 3 lbs in 1 day or more than 
5 lbs in 3 days, please call your heart doctor or your primary 
care doctor and alert them to this change. 

Your other cardiac meds are Aspirin, Metoprolol, Atorvastatin, 
and Xarelto (blood thinner). You are scheduled to have your 
surgery to fix the aortic stenosis, atrial fibrillation, and 
have coronary artery bypass graft done on ___. Your last dose 
of Xarelto should be on ___ and then you should stop it for 
your surgery. 

You are also taking Vancomycin by mouth for an infection of your 
bowel (C. difficile colitis). Your last dose of medication is on 
___. Please speak with your primary care provider about ___ test 
to ensure that you are adequately treated for this infection. 
The result of this test will need to be sent to the cardiac 
surgeons. 

We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.

It was a pleasure to take care of you. We wish you the best with 
your health!

Your ___ Cardiac Care Team
 
Followup Instructions:
___